US08008302B2
Step b) Formation of (2R,3S)—N,2-dihydroxy-3-{[4-(4-methoxyphenyl)piperazin-1-yl]carbonyl}-5-methylhexanamide (14)
To a suspension of (5R)-5-((1S)-1-{[4-(4-methoxyphenyl)piperazin-1-yl]carbonyl}-3-methylbutyl)-2,2-dimethyl-1,3-dioxolan-4-one (108 mg, 0.27 mmol) in iPrOH (4 mL) was added a 50% aqueous solution of hydroxylamine (80 μL) and the resulting mixture was stirred at RT for 2 hours. Then the white solid was filtered off, washed with water and dried under reduced pressure to give 56 mg (55%) of the title compound as a white powder. HPLC, Rt: 1.57 min (purity: 99.1%). LC/MS, M+(ESI): 380.2, M−(ESI): 378.2. 1H NMR (CD3OD, 300 MHz) δ 7.01 (d, J=9.1 Hz, 2H), 6.89 (d, J=9.1 Hz, 2H), 4.05 (d, J=6.8 Hz, 1H), 3.96 (m, 2H), 3.80 (m, 1H), 3.78 (s, 3H), 3.68 (m, 1H), 3.49 (m, 1H), 3.15-2.99 (m, 4H), 1.72 (m, 1H), 1.54 (m, 1H), 1.29 (m, 1H), 0.96 (d, J=6.5 Hz, 3H), 0.95 (d, J=6.4 Hz, 3H).

reactant | (5R)-5-((1S)-1-{[4-(4-methoxyphenyl)piperazin-1-yl]carbonyl}-3-methylbutyl)-2,2-dimethyl-1,3-dioxolan-4-one | 0.27 mmol, 108 mg | COC1=CC=C(C=C1)N1CCN(CC1)C(=O)[C@@H](CC(C)C)[C@@H]1C(OC(O1)(C)C)=O | C22H32N2O5
reactant | hydroxylamine | 80 μL | NO | H3NO
solvent | iPrOH | 4 mL | CC(C)O | C3H8O
product | (2R,3S)—N,2-dihydroxy-3-{[4-(4-methoxyphenyl)piperazin-1-yl]carbonyl}-5-methylhexanamide | 56 mg, 55% | ONC([C@@H]([C@H](CC(C)C)C(=O)N1CCN(CC1)C1=CC=C(C=C1)OC)O)=O | C19H29N3O5
